US08283353B2
4′-{[4-(3-hydroxy-2,2-dimethylpropyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[4-(3-{[tert-butyl(dimethyl)silyl]oxy}-2,2-dimethylpropyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (1.5 g), tetrabutylammonium fluoride (1 M tetrahydrofuran solution, 4 mL) and tetrahydrofuran (30 mL) was stirred at room temperature for 3 hr. The reaction mixture was extracted with ethyl acetate and water, and the organic layer was washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.98 g, 79%).

reactant | 4′-{[4-(3-{[tert-butyl(dimethyl)silyl]oxy}-2,2-dimethylpropyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 1.5 g | [Si](C)(C)(C(C)(C)C)OCC(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)(C)C | C34H45N5O2Si
reactant | tetrabutylammonium fluoride | 1 M, 4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4′-{[4-(3-hydroxy-2,2-dimethylpropyl)-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.98 g, 79% | OCC(CN1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)(C)C | C28H31N5O2
